US05587475
A simplified modification of the procedure of Sharma, et el. is suitable for use in the invention. In this procedure, 500 g STAFAC® is placed in an Erlenmeyer flask with 3.75 L methylene chloride. The mixture is stirred overnight with a mechanical stirrer. The STAFAC® is filtered, and rinsed with a Buchner funnel under vacuum, giving a cloudy yellow solution. A second filtration is performed through a glass-frit (medium) filter, giving a clear yellow solution. This solution is concentrated in vacuo to give a crude mixture of VM and VS. 10 g of this yellow/brown solid is purified with a medium pressure liquid chromatography (MPLC) column using gradients of 0.5, 1, 1.5, 3, 4, 6 and 8% methyl alcohol in methylene chloride. The fractions are separated by thin layer chromatography, and the fraction containing VM is concentrated with rotary evaporation. The VM1 is then recrystallized using ethyl acetate. 1.105 g of virginiamycin M1 is obtained.

reactant | STAFAC | 500 g | CCC1C(=O)N2CCCC2C(=O)N(C(C(=O)N3CCC(=O)CC3C(=O)NC(C(=O)OC(C(C(=O)N1)NC(=O)C4=C(C=CC=N4)O)C)C5=CC=CC=C5)CC6=CC=CC=C6)C.CC1/C=C\C(=O)NC/C=C\C(=C/C(CC(=O)CC2=NC(=CO2)C(=O)N3CCC=C3C(=O)OC1C(C)C)O)\C
solvent | methylene chloride | 3.75 L | C(Cl)Cl | CH2Cl2
product | virginiamycin M1 | 1.105 g | C[C@@H]1/C=C/C(=O)NC/C=C/C(=C/[C@H](CC(=O)CC2=NC(=CO2)C(=O)N3CCC=C3C(=O)O[C@@H]1C(C)C)O)/C | C28H35N3O7
